US07144908B2
i) 2-[3-(3-Iodophenyl)-2,4-dioxoimidazolidin-1-yl]acetamide
A solution of 3-(3-iodophenyl)imidazolidine-2,4-dione (1 g) in DMF (20 ml) was treated with sodium hydride (60% oil dispersion, 158 mg) and 2-bromoacetamide (1.36 g) at 20° C. After 2 h the reaction mixture was treated with aqueous 2M HCl, extracted with EtOAc and dried (MgSO4). The solvent was removed under reduced pressure and the residue was purified by chromatography on Biotage (40 g) eluting with EtOAc to give the title compound (638 mg). LCMS RT=2.32 min.

reactant | 3-(3-iodophenyl)imidazolidine-2,4-dione | 1 g | IC=1C=C(C=CC1)N1C(NCC1=O)=O | C9H7IN2O2
reactant | sodium hydride | 158 mg | [H-].[Na+]
reactant | 2-bromoacetamide | 1.36 g | BrCC(=O)N | C2H4BrNO
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[3-(3-Iodophenyl)-2,4-dioxoimidazolidin-1-yl]acetamide | 638 mg | IC=1C=C(C=CC1)N1C(N(CC1=O)CC(=O)N)=O | C11H10IN3O3
